US06562989B2
4-cyano-2′-methyl-1,1′-biphenyl (Table 15, Entry 2)
4-Chlorobenzonitrile (55 mg, 0.40 mmol) reacted with 2-methylphenylboronic acid (82 mg, 0.60 mmol) using 1 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (70 mg, 1.21 mmol) in THF at 45° C. to give the title compound (72 mg, 94%) as a white solid: 1H-NMR (300 MHz, CDCl3): δ 7.73 (d, 2H, J=8.1 Hz), 7.46 (d, 2H, J=8.4 Hz), 7.27-7.34 (m, 3H), 7.21, (d, 1H, J=6.9 Hz), 2.80 (s, 3H). 13C{1H}-NMR (100 MHz, CDCl3): δ 146.76, 139.97, 135.00, 131.94, 130.64, 129.97, 129.39, 128.26, 126.07, 118.93, 110.70, 20.28. GC/MS (EI): m/z 193 (M+), 165.

reactant | 4-Chlorobenzonitrile | 0.40 mmol, 55 mg | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | 2-methylphenylboronic acid | 0.60 mmol, 82 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | KF | 1.21 mmol, 70 mg | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-cyano-2′-methyl-1,1′-biphenyl | 72 mg, 94% | C(#N)C1=CC=C(C=C1)C1=C(C=CC=C1)C | C14H11N
